US07351858B2
b) N-(2,4-difluorobenzyl)-N-heptyl-2-[4-(2 hydroxyethyl)-2-methoxyphenoxy]acetamide
2-Bromo-N-(2,4-difluorobenzyl)-N-heptylacetamide (135 mg, 0.373 mmol), homovanillyl alcohol (63 mg, 0.373 mmol) and potassium carbonate anhydrous (77 mg, 0.559 mmol) were mixed in acetonitrile (10 ml). The mixture was heated to reflux for 4 hours and then evaporated to dryness. The residue (with additional DCM, 1 ml×2) was loaded onto a column (ISOLUTE® SI, 1 g/6 ml). It was eluted with DCM and then MeOH/DCM (0.5:99.5, then 1:99). The product fractions were combined and evaporated Oil product 132 mg was obtained yield 79%.

reactant | 2-Bromo-N-(2,4-difluorobenzyl)-N-heptylacetamide | 0.373 mmol, 135 mg | BrCC(=O)N(CCCCCCC)CC1=C(C=C(C=C1)F)F | C16H22BrF2NO
reactant | homovanillyl alcohol | 0.373 mmol, 63 mg | C(CC1=CC(OC)=C(O)C=C1)O | C9H12O3
reactant | potassium carbonate | 0.559 mmol, 77 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-(2,4-difluorobenzyl)-N-heptyl-2-[4-(2 hydroxyethyl)-2-methoxyphenoxy]acetamide | yield 79% | FC1=C(CN(C(COC2=C(C=C(C=C2)CCO)OC)=O)CCCCCCC)C=CC(=C1)F | C25H33F2NO4
